US07652049B2
A solution of 1-[3,5-bis(trifluoromethyl)phenyl]-N2-{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}ethane-1,2-diamine (125.2 mg, 0.217 mmol) in CH2Cl2 (30 mL) was cooled to 0° C. and DIPEA (227 μL, 1.30 mmol) was added. Next, triphosgene (32.2 mg, 0.109 mmol) was added. The reaction was stirred at 0° C. for 45 minutes and then poured into saturated NaHCO3 (20 mL). The mixture was extracted with EtOAc (100 mL) and the organic layer was washed with brine (25 mL), dried over Na2SO4, filtered and concentrated. The residue was purified by flash chromatography with 40% EtOAc/hexanes to afford 4-[3,5-bis(trifluoromethyl)phenyl]-1-{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}imidazolidin-2-one. Rf=0.22 (40% EtOAc/hexane). LCMS=605.2 (M+1)+. 1H NMR (CDCl3, 500 MHz) (atropisomers present in 1:1 ratio; doubling of some peaks observed) δ 7.83 (s, 1H), 7.78 (s, 2H), 7.55-7.62 (m, 2H), 7.32 (d, J=7.8 Hz, 1H), 7.22 (m, 1H), 6.94 (s, 1H), 6.88 (d, J=8.3 Hz, 1H), 5.33 & 5.24 (2 singlets, 1H), 4.80-4.88 (m, 1H), 4.00-4.61 (m, 2H), 3.72 & 3.70 (2 singlets, 3H), 3.55-3.59 (m, 1H), 2.83-2.93 (m, 2H), 1.17-1.23 (m, 6H).

reactant | 1-[3,5-bis(trifluoromethyl)phenyl]-N2-{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}ethane-1,2-diamine | 0.217 mmol, 125.2 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(CNCC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC)N)(F)F | C28H27F9N2O
reactant | DIPEA | 1.30 mmol, 227 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | triphosgene | 0.109 mmol, 32.2 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 4-[3,5-bis(trifluoromethyl)phenyl]-1-{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}imidazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)C1NC(N(C1)CC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC)=O)(F)F | C29H25F9N2O2
